US07064215B2
Synthesis of 4-[2-(5-Fluoro-1H-indazol-3-yl)-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide
The title compound was synthesized from 5-fluoro-1H-indazole-3-carbaldehyde and 4-(3,4-diamino-phenoxy)-pyridine-2-carboxylic acid methylamide using the method described above in Example 4. LC/MS (m/z) 403.1 (MH+), Rt 2.26 minutes.

reactant | 5-fluoro-1H-indazole-3-carbaldehyde | FC=1C=C2C(=NNC2=CC1)C=O | C8H5FN2O
reactant | 4-(3,4-diamino-phenoxy)-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)N | C13H14N4O2
product | 4-[2-(5-Fluoro-1H-indazol-3-yl)-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(NC(=N2)C2=NNC3=CC=C(C=C23)F)C=C1 | C21H15FN6O2
